US06573270B1
2-({5-{{[4-(tert-butyl)phenyl]sulfonyl}[(2-methoxyethoxy)methyl]amino}-1-methyl-4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}oxy)ethyl acetate
To 2-[(5-{{[4-(tert-butyl)phenyl]sulfonyl}[(2-methoxyethoxy)methyl]amino}-4-iodo-1-methyl-1H-pyrazol-3-yl)oxy]ethyl acetate (Preparation 14) (300 mg) in solution in toluene (5 ml) were successively added ethanol (1 ml), cesium carbonate (805 mg) in water (2 ml), and 4-(trifluoromethyl)phenylboronic acid (187 mg) at room temperature. The reaction mixture was degassed (vacuum followed by nitrogen atmosphere). This operation was repeated 5 times. The tetrakis(triphenylphosphine)-palladium(0) (15 mg) was then added and the reaction mixture degassed twice. The reaction mixture was refluxed for 1.5 hours and then cooled to room temperature and concentrated under reduced pressure. The residue was partitioned between ethyl acetate (20 ml) and a saturated solution of sodium carbonate (20 ml). The organic layer was separated and washed with a saturated solution of sodium carbonate (10 ml) and then brine (10 ml). The solution was dried on magnesium sulfate, the solution filtered on celite and concentrated under reduced pressure. The crude material was purified by chromatography on a suction column packed with silica eluted with ethyl acetate:hexane (1:2 to 3:1 gradually) to yield the desired product as an off white solid (200 mg).

reactant | 2-[(5-{{[4-(tert-butyl)phenyl]sulfonyl}[(2-methoxyethoxy)methyl]amino}-4-iodo-1-methyl-1H-pyrazol-3-yl)oxy]ethyl acetate | 300 mg | C(C)(=O)OCCOC1=NN(C(=C1I)N(COCCOC)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C22H32IN3O7S
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | cesium carbonate | 805 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(trifluoromethyl)phenylboronic acid | 187 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 ml | O | H2O
product | 2-({5-{{[4-(tert-butyl)phenyl]sulfonyl}[(2-methoxyethoxy)methyl]amino}-1-methyl-4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}oxy)ethyl acetate | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C(F)(F)F)N(COCCOC)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C29H36F3N3O7S
